US06413995B1
A suspension of N-(3-pyridylmethyl)-4-[(trifluoroacetyl)amino]cinnamic acid (1.55 g) and potassium carbonate (1.84 g) in 10 ml dimethylformamide was stirred with 0.7 ml t-butyl bromoacetate for 24 hours. After removal of inorganic salts by filtration, insoluble components precipitated from water were filtered off. The filtrate was extracted with ethyl acetate and the organic layer was washed with water and brine, and then dried over magnesium sulfate. The drying agent was filtered off and the solvent was evaporated to give a residue, which was then separated and purified via column chromatography on silica gel (chloroform:methanol=50:1) to provide t-butyl [[4-[(E)-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl](trifluoroacetyl)amino]acetate (582 mg, 30%).

reactant | N-(3-pyridylmethyl)-4-[(trifluoroacetyl)amino]cinnamic acid | 1.55 g | N1=CC(=CC=C1)CN(C1=CC=C(C=CC(=O)O)C=C1)C(C(F)(F)F)=O | C17H13F3N2O3
reactant | potassium carbonate | 1.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl bromoacetate | 0.7 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | t-butyl [[4-[(E)-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl](trifluoroacetyl)amino]acetate | 582 mg, 30% | N1=CC(=CC=C1)CNC(=O)/C=C/C1=CC=C(C=C1)N(C(C(F)(F)F)=O)CC(=O)OC(C)(C)C | C23H24F3N3O4
